US05091419
To a solution of 0.5 g N,N'-dicycloheptyl-m-xylylenediamine in 50 ml n-hexane, was added dropwise with stirring 5 ml of a n-hexane solution containing 0.46 g 4-fluorophenyl isocyanate under ice cooling, and stirring was continued at room temperature for two hours. The solid which separated out was collected by filtration, washed with n-hexane and recrystallized from methanol, giving 0.75 g of 1,3-bis[[1-cycloheptyl-3-(p-fluorophenyl)ureido]methyl]benzene.

reactant | N,N'-dicycloheptyl-m-xylylenediamine | 0.5 g | C1(CCCCCC1)NCC1=CC(=CC=C1)CNC1CCCCCC1 | C22H36N2
reactant | 4-fluorophenyl isocyanate | 0.46 g | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | n-hexane | 50 ml | CCCCCC | C6H14
solvent | n-hexane | 5 ml | CCCCCC | C6H14
product | 1,3-bis[[1-cycloheptyl-3-(p-fluorophenyl)ureido]methyl]benzene | 0.75 g | C1(CCCCCC1)N(C(=O)NC1=CC=C(C=C1)F)CC1=CC(=CC=C1)CN(C(=O)NC1=CC=C(C=C1)F)C1CCCCCC1 | C36H44F2N4O2
